US05736487
9(a) O-(5-Fluorobenzothiazol-2-ylmethyl)-4-nitrophenol
452.9 mg of sodium hydride (as a 60% w/w dispersion in mineral oil) were added to a solution of 1.5 g of 4-nitrophenol in 30 ml of dimethylformamide cooled in an ice-water bath. The resulting mixture was stirred at this temperature for 5 minutes, after which a solution of 2.79 g of 2-bromomethyl-5-fluorobenzothiazole in 5 ml of dimethylformamide was added thereto. The temperature of the resulting mixture was elevated to room temperature and the mixture was then stirred for 3 hours. At the end of this time, a saturated aqueous ammonium chloride solution was added to the reaction mixture and the resulting mixture was extracted with ethyl acetate. The resulting extract was washed consecutively with water and a saturated aqueous sodium chloride solution and then dried over anhydrous sodium sulfate. The solvent was removed by evaporation under reduced pressure and the resulting residue was washed with a mixed solvent of methylene chloride and hexane to give 2.33 g of the title compound as a crude crystalline solid.

reactant | sodium hydride | 452.9 mg | [H-].[Na+]
reactant | 4-nitrophenol | 1.5 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 2-bromomethyl-5-fluorobenzothiazole | 2.79 g | BrCC=1SC2=C(N1)C=C(C=C2)F | C8H5BrFNS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | O-(5-Fluorobenzothiazol-2-ylmethyl)-4-nitrophenol | 2.33 g | FC=1C=CC2=C(N=C(S2)COC2=CC=C(C=C2)[N+](=O)[O-])C1 | C14H9FN2O3S
